US07087579B2
To a solution of 5-methyl-4-[(4-cyclopropylphenyl)methyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.14 g) in ethanol (8.4 mL) was added 2 mol/L aqueous sodium hydroxide solution (0.63 mL), and the mixture was stirred at room temperature for 30 minutes. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=6/1) to give 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole (0.087 g).

reactant | 5-methyl-4-[(4-cyclopropylphenyl)methyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.14 g | CC1=C(C(=NN1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)C1CC1 | C28H34N2O10
reactant | sodium hydroxide | 2 mol/L, 0.63 mL | [OH-].[Na+]
solvent | ethanol | 8.4 mL | C(C)O | C2H6O
product | 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole | 0.087 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)C1CC1)C | C20H26N2O6
